US07244730B2
(Step 7) N1-Methyl-4-(bromomethyl)-5-cyano-2-ethoxybenzamide
After dissolving tert-butyl N-[4-(bromomethyl)-5-cyano-2-ethoxybenzoyl]-N-methylcarbamate (39.9 g) in dichloromethane (300 ml), trifluoroacetic acid (50 ml) was added and the mixture was stirred at room temperature for 30 minutes. The reaction mixture was concentrated and the residue was purified by silica gel column chromatography (solvent: n-hexane-ethyl acetate) to yield the title compound (19.77 g) as a white solid.

reactant | tert-butyl N-[4-(bromomethyl)-5-cyano-2-ethoxybenzoyl]-N-methylcarbamate | 39.9 g | BrCC1=CC(=C(C(=O)N(C(OC(C)(C)C)=O)C)C=C1C#N)OCC | C17H21BrN2O4
solvent | dichloromethane | 300 ml | ClCCl | CH2Cl2
solvent | trifluoroacetic acid | 50 ml | FC(C(=O)O)(F)F | C2HF3O2
product | N1-Methyl-4-(bromomethyl)-5-cyano-2-ethoxybenzamide | 19.77 g | CNC(C1=C(C=C(C(=C1)C#N)CBr)OCC)=O | C12H13BrN2O2
